US06168728A
The mixture of 2-fluoro-4-(3-methyl-3-hydroxy-1-butynyl)toluene (0.035 mol), sodium hydroxide (0.07 mol), and benzene 40 ml was refluxed for 3 hours. After cooling, water 40 ml was added and the mixture was thoroughly stirred. Insoluble materials were filtered away with Celite (trade name of Johns-Manville Company), and the residue was dried over anhydrous magnesium sulfate. The drying agent was separated away, the solvent was carefully distilled away from the solution under reduced pressure, the residue was purified by silica gel chromatography (elution liquid: hexane) and then distilled away the solvent under reduced pressure (boiling point: 100° C., 20 mmHg) to obtain cororless oily 2-fluoro-4-ethynyltoluene (0.014 mol).

reactant | 2-fluoro-4-(3-methyl-3-hydroxy-1-butynyl)toluene | 0.035 mol | FC1=C(C=CC(=C1)C#CC(C)(O)C)C | C12H13FO
reactant | sodium hydroxide | 0.07 mol | [OH-].[Na+]
reactant | benzene | 40 ml | C1=CC=CC=C1 | C6H6
solvent | water | 40 ml | O | H2O
product | 2-fluoro-4-ethynyltoluene | 0.014 mol | FC1=C(C=CC(=C1)C#C)C | C9H7F
